US06660753B2
In a similar fashion, 5-bromonicotinoyl chloride was prepared from 5-bromonicotinic acid (2.02 g, 10 mmol). Treatment of the acid chloride with pyrid-2-ylamidoxime (1.37 g, 10 mmol) and triethylamine (4.04 g, 40 mmol) in dichloromethane (20 mL), followed by heating in dimethylformamide (20 mL) at 120° C. for 16 hours. After this time water was added and the precipitate collected and dried. Filtration through silica gel using dichloromethane followed by trituration with hexane afforded 2.58 g (85%) of 3-(2-pyridyl)-5-(5-bromopyrid-3-yl)-1,2,4-oxadiazole.

reactant | 5-bromonicotinoyl chloride | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | 5-bromonicotinic acid | 10 mmol, 2.02 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(5-bromopyrid-3-yl)-1,2,4-oxadiazole | 2.58 g, 85% | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)Br | C12H7BrN4O
